US06476041B1
2-[3-(4-Benzyl-piperidin-1-yl)-butyl]-1H-benzimidazole:
A mixture of 0.32 g of 3-{2-[3-(4-benzyl-piperidin-1-yl)-butyl]-benzimidazol-1-yl}-propionitrile, 100 mL of tert-butanol and 1 g of potassium tert-butoxide was heated to reflux for 10 min. Conversion was complete by TLC (80:20:1 ethyl acetate:methanol:triethylamine). The mixture was cooled, diluted with 10 mL of saturated sodium bicarbonate and concentrated. The residue was partitioned between 3×100 mL of chloroform and 50 mL of water. After drying over magnesium sulfate and concentration under reduced pressure, the residue was purified by preparative TLC eluting with 90:10:2 chloroform:methanol:ammonium hydroxide. The major band (UV visualization) was 2-[3-(4-benzyl-piperidin-1-yl)-butyl]-1H-benzimidazole (250 mg): MS (m+1)=348.5; 1H NMR (400 MHz, CDCl3) 7.42 (s, 2H), 7.3 (m, 2H), 7.25 (m, 1H), 7.2 (m, 4H), 3.25 (m, 1H), 3.0 (m, 2H), 2.8 (d, 2H), 2.65 (m, 2H), 2.5 (m, 2H), 2.1 (m, 2H), 1.6 (d, 2H), 1.3 (m, 1H), 1.2 (d, 3H), 1.0 (m, 1H).

reactant | 3-{2-[3-(4-benzyl-piperidin-1-yl)-butyl]-benzimidazol-1-yl}-propionitrile | 0.32 g | C(C1=CC=CC=C1)C1CCN(CC1)C(CCC1=NC2=C(N1CCC#N)C=CC=C2)C | C26H32N4
reactant | tert-butanol | 100 mL | C(C)(C)(C)O | C4H10O
reactant | potassium tert-butoxide | 1 g | CC(C)([O-])C.[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 2-[3-(4-Benzyl-piperidin-1-yl)-butyl]-1H-benzimidazole | C(C1=CC=CC=C1)C1CCN(CC1)C(CCC1=NC2=C(N1)C=CC=C2)C | C23H29N3
